US06667398B2
2-ethoxy-5-(4-ethyl-1-piperazinylsulfonyl)benzonitrile
Commercially available 2-ethoxybenzonitrile (25 g, 0.17 Mol) was added dropwise to an ice cooled mixture of chlorosulfonic acid (50.8 mL, 0.765 Mol) and thionyl chloride (12.4 mL, 0.17 Mol) so as to keep the temperature below 10° C. The reaction was then stirred at ambient temperature for 18 h before being poured onto ice/water. This mixture was stirred 1 hr before the precipitated material was filtered off. The resultant solid was dissolved in acetone (300 mL) and triethylamine (25 mL, 0.179 Mol) was added followed by a slow addition of N-ethylpiperazine (25 mL, 0.198 Mol). After being left at ambient temperature for 65 h the mixture was evaporated and the residue stirred with water (1 L) for 2 h. The solids were filtered off, washed with water and dried before being chromatographed over silica gel using ethyl acetate methanol mixtures. Combination and evaporation of like fractions yielded 9.8 g, 17.8% of the title compound. Melting point=86-88° C. M/Z=324 (M+H). 300 MHz Proton NMR (CDCl3); 1.06 (t, 3H), 1.55 (t, 3H), 2.43 (q, 2H), 2.54 (m, 4H), 3.06 (m, 4H), 4.25 (q, 2H), 7.08 (d 1H), 7.90 (dd, 1H), 7.97 (d,1H).

reactant | 2-ethoxybenzonitrile | 0.17 Mol, 25 g | C(C)OC1=C(C#N)C=CC=C1 | C9H9NO
reactant | chlorosulfonic acid | 0.765 Mol, 50.8 mL | ClS(=O)(=O)O | ClHO3S
reactant | thionyl chloride | 0.17 Mol, 12.4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 0.179 Mol, 25 mL | C(C)N(CC)CC | C6H15N
reactant | N-ethylpiperazine | 0.198 Mol, 25 mL | C(C)N1CCNCC1 | C6H14N2
product | 2-ethoxy-5-(4-ethyl-1-piperazinylsulfonyl)benzonitrile | 9.8 g, 17.8% | C(C)OC1=C(C#N)C=C(C=C1)S(=O)(=O)N1CCN(CC1)CC | C15H21N3O3S
